US08044062B2
N,N-Dimethyl acetamide dimethyl acetal (75 g, 0.56 mole) was added to a suspension of thiourea (33.0 g, 0.43 mole) in methylene chloride. The mixture was heated under reflux for 4 h. The solvent was removed and the residue was crystallized from 5% MeOH and diethyl ether affording (1E)-N′-(aminocarbonothioyl)-N,N-dimethylethanimidamide (47.8 g, 76% yield).

reactant | N,N-Dimethyl acetamide dimethyl acetal | 0.56 mole, 75 g | COC(C)(N(C)C)OC | C6H15NO2
reactant | thiourea | 0.43 mole, 33.0 g | NC(=S)N | CH4N2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (1E)-N′-(aminocarbonothioyl)-N,N-dimethylethanimidamide | 47.8 g, 76% yield | NC(=S)/N=C(\C)/N(C)C | C5H11N3S
